US05073659
Synthesis of farnesylacetone
The same procedure as that described in Example 25 was repeated except that 0.73 g of metallic magnesium, 80 ml of tetrahydrofuran, three droplets of ethylene dibromide, 7.4 g (0.03 mol) of geranyl chloride having a purity of 70%, 4.1 g (0.03 mol) of anhydrous zinc chloride, 0.2 g of CuI, 3 g (0.02 mol) of 3-chloromethylheptenone and 30 ml of tetrahydrofuran were used. Thus, 4.1 g of the objective compound was obtained as a colorless liquid (yield: 78.2%, purity: 98.8%).

reactant | magnesium | 0.73 g | [Mg] | Mg
reactant | ethylene dibromide | C(CBr)Br | C2H4Br2
reactant | geranyl chloride | 0.03 mol, 7.4 g | C(\C=C(/C)\CCC=C(C)C)Cl | C10H17Cl
reactant | 3-chloromethylheptenone | 0.02 mol, 3 g | ClCC(C(C)=O)=CCCC | C8H13ClO
catalyst | zinc chloride | 0.03 mol, 4.1 g | [Cl-].[Zn+2].[Cl-]
catalyst | CuI | 0.2 g | [Cu]I
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | farnesylacetone | 4.1 g, yield: 78.2% | C(C=C(C)CCC=C(C)CCC=C(C)C)CC(C)=O | C18H30O
